US07238808B2
3-Pyridin-4-ylethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and 4-iodopyridine [CAS 15854-87-2; commercially available] (225 mg, 1.1 mmol) according to general procedure II. Obtained as a yellow solid (92 mg,21%). MS (ISP) 433.2 [(M+H)+]; mp 252–256° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 4-iodopyridine | IC1=CC=NC=C1 | C5H4IN
product | 3-Pyridin-4-ylethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | N1=CC=C(C=C1)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C21H10F6N4
